US09382424B2
A mixture of 4-bromo-1,8-naphthalic anhydride (21.40 g, 77.2 mmol), n-hexylamine (13.1 mL, 100 mmol), toluene (200 mL), and chloroform (200 mL) was heated to boil for 1 hour. Precipitate formed making stirring difficult. The mixture was acidified with acetic acid, and heating was continued at 90° C. with distillation of chloroform. After all precipitate dissolved, the reaction mixture was poured onto crushed ice (300 g) and acidified with concentrated HCl to pH 1. After the ice melted, the solid was filtered off and dried. The crude product was purified by column chromatography (silica gel, hexane/ethyl acetate 2:1) to give 6-bromo-2-hexyl-1H-benzo[de]isoquinoline-1,3(2H)-dione (20.66 g, 74%).

reactant | 4-bromo-1,8-naphthalic anhydride | 77.2 mmol, 21.40 g | C1=CC2=C(C=CC3=C2C(=C1)C(=O)OC3=O)Br | C12H5BrO3
reactant | n-hexylamine | 100 mmol, 13.1 mL | C(CCCCC)N | C6H15N
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
reactant | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-bromo-2-hexyl-1H-benzo[de]isoquinoline-1,3(2H)-dione | 20.66 g, 74% | BrC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)CCCCCC)=O | C18H18BrNO2
